US09334263B2
To a solution of 5-bromo-2,4-dichloropyrimidine (10 g, 44.2 mmol) in THF (135 mL) was added sodium hydroxide solution (3 M, 45 mL), and the mixture was stirred overnight at RT. The solvent was evaporated, and the residue was diluted with water (100 mL). The aqueous solution was cooled to 0° C., brought to pH 2-3 with 1 N HCl and then extracted with methanol/dichloromethane (5%, 5×100 mL). The organic layers were separated, combined, dried over sodium sulfate, filtered and concentrated to give 5-bromo-2-chloropyrimidin-4-ol (6.5 g, 71%) as a yellow solid. MS (ES+) C4H2BrClN2O requires: 208, 210, found: 209, 211 [M+H]+.

reactant | 5-bromo-2,4-dichloropyrimidine | 44.2 mmol, 10 g | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | sodium hydroxide | 3 M, 45 mL | [OH-].[Na+]
solvent | THF | 135 mL | C1CCOC1 | C4H8O
product | 5-bromo-2-chloropyrimidin-4-ol | 6.5 g, 71% | BrC=1C(=NC(=NC1)Cl)O | C4H2BrClN2O
